US03996219
The product of part a and 7-amino-3-[[(1-methyl-1H-tetrazol-5-yl)thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]-oct-2-ene-2-carboxylic acid diphenylmethyl ester are dissolved in 650 ml. of absolute tetrahydrofuran and the solution is cooled to 0°. At this temperature, a solution of 7.3 gms. of dicyclohexylcarbodiimide in 60 ml. of absolute tetrahydrofuran is added dropwise over a period of about 20 minutes. The mixture is stirred at 0° for two hours and an additional two hours at room temperature. The dicyclohexylurea which precipitates is removed by filtration. The filtrate is concentrated in vacuum. The residue is dissolved in ethyl acetate, washed with saturated sodium bicarbonate solution, then with water and dried with magnesium sulfate. After filtration, the filtrate is left overnight in the refrigerator. The reaction product crystallizes. On filtration 12.2 gms. of 7β-[[[[[(4-methoxyphenyl)methoxy]carbonyl]amino]-2-thienyl)acetyl]amino]-3-[[(1-methyl-1H-tetrazol-5-yl)thio]-methyl]-8 -oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid, diphenylmethyl ester are obtained, m.p. 126° (dec.). The filtrate is evaporated to dryness. Treatment with ethyl acetate yields a second crop of 2.6 gms. A third crop of 2.6 gms. is obtained when the filtrate is evaporated, dissolved in a small amount of ethyl acetate, precipitated with petroleum ether and again treated with ethyl acetate.

reactant | 7-amino-3-[[(1-methyl-1H-tetrazol-5-yl)thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]-oct-2-ene-2-carboxylic acid diphenylmethyl ester | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2SCC1CSC1=NN=NN1C)N)=O | C23H22N6O3S2
reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-[[(1-methyl-1H-tetrazol-5-yl)thio]-methyl]-8 -oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid, diphenylmethyl ester | CN1N=NN=C1SCC1=C(N2C(CC2SC1)=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C23H21N5O3S2
